US04343811
7,8,9,10-Tetrahydro-11-(4-pyridyl)-6H-azepino[1,2-a]indole-3-ol
One hundred and forty-one grams (0.75 mole) of 2-(4-picolinylidene)1,3,4,5,6,7-hexahydroazepine were dissolved in 1000 ml of chloroform and mixed under ice cooling with a solution of 89 g (0.83 mole) of 1,4-benzoquinone in 1000 ml of chloroform added dropwise. After the mixture stood for 24 hours at room temperature, the precipitate formed was filtered, suspended in 500 ml of dimethylformamide, and then heated for two hours to 100° C. After cooling, the suspension was suction filtered and washed with dimethylformamide and acetone, whereby the pure 2-hydroxy-isomer was obtained.

reactant | 2-(4-picolinylidene)1,3,4,5,6,7-hexahydroazepine | 0.75 mole, One hundred and forty-one grams | N1=CC=C(C=C1)C=C1NCCCCC1 | C12H16N2
reactant | 1,4-benzoquinone | 0.83 mole, 89 g | C1(C=CC(C=C1)=O)=O | C6H4O2
solvent | chloroform | 1000 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1000 ml | C(Cl)(Cl)Cl | CHCl3
product | 7,8,9,10-Tetrahydro-11-(4-pyridyl)-6H-azepino[1,2-a]indole-3-ol | N1=CC=C(C=C1)C1=C2N(C3=CC(=CC=C13)O)CCCCC2 | C18H18N2O
